US04457927
A mixture of 1.4 g. of 2-(6,8-dichloro-11-oxo-11H-pyrido[2,1-b]quinazolin-2-yl)propionic acid methyl ester, 10 ml. of water, and 10 ml. of concentrated sulfuric acid is stirred for 4 hours at 120° (bath temperature). After cooling, the mixture is diluted with 10 ml. of ice water and adjusted with sodium hydroxide solution to a pH of 4-5. After extraction with ethyl acetate, drying, and concentration of the organic phase, 1.1 g. of 2-(6,8-dichloro-11-oxo-11H-pyrido[2,1-b]quinazolin-2-yl)propionic acid is obtained, m.p. 241° (dimethylformamide-water).

reactant | 2-(6,8-dichloro-11-oxo-11H-pyrido[2,1-b]quinazolin-2-yl)propionic acid methyl ester | COC(C(C)C=1C=C2C(N3C(=NC2=CC1)C(=CC(=C3)Cl)Cl)=O)=O | C16H12Cl2N2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(6,8-dichloro-11-oxo-11H-pyrido[2,1-b]quinazolin-2-yl)propionic acid | ClC1=CC(=CN2C1=NC1=CC=C(C=C1C2=O)C(C(=O)O)C)Cl | C15H10Cl2N2O3
